US08809378B2
6-((6-(2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxy-3-(1H-tetrazol-1-yl)propyl)pyridin-3-yl)methoxy)nicotinonitrile (98)
To a magnetically stirred mixture of 6-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)methoxy)nicotinonitrile (BZ; 200 mg, 0.482 mmol) and 1H-tetrazole (67.5 mg, 0.963 mmol) in dry DMF (4.815 mL) was added K2CO3 (133 mg, 0.963 mmol) in a dry 25 mL vial under N2 atmosphere. The reaction mixture was stirred at 55° C. for 36 hours, then cooled to RT, and diluted with ice-water and ether. The layers were separated and the aq. layer was extracted again with ether (2×). The combined ether extracts were dried over sodium sulfate, filtered, and evaporated. The crude residue was purified on silica (40 gram column, gradient over 15 min to 40% EA/Hex, hold 10 min then 10 min at 80% EA/hex, monitor 240 and 254 nm). The respective product fractions were evaporated to afford the title compound contaminated with DMF. The material was diluted with water and extracted 3× with ether, the combined ether extracts were diluted with pet. ether and washed with sat'd NH4Cl (2×) and brine (1×), dried over MgSO4, filtered, and evaporated to afford 98. Yield=62 mg (25.2%) of a white foam. 1H NMR (400 MHz, CDCl3) δ 8.75 (s, 1H), 8.63 (d, J=1.3 Hz, 1H), 8.48 (dd, J=2.3, 0.8 Hz, 1H), 7.91 (dd, J=8.2, 2.1 Hz, 1H), 7.85 (dd, J=8.7, 2.4 Hz, 1H), 7.62 (d, J=8.0 Hz, 1H), 7.56 (s, 1H), 7.35 (td, J=9.0, 6.5 Hz, 1H), 6.92 (dd, J=8.5, 0.8 Hz, 1H), 6.76 (ddd, J=12.0, 8.5, 2.5 Hz, 1H), 6.71-6.61 (m, 1H), 5.56 (d, J=14.3 Hz, 1H), 5.50 (s, 2H), 5.13 (dd, J=14.2, 1.1 Hz, 1H). 1H-decoupled 19F NMR (376 MHz, CDCl3) δ −103.83 (ddd, J=42.2, 17.0, 10.2 Hz), −104.20 (d, J=16.3 Hz), −104.89 (d, J=16.3 Hz), −107.90-108.07 (m), −110.92 (dd, J=262.9, 42.2 Hz). MS (ESI): m/z 486.1 (M+H)+.

reactant | 6-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)methoxy)nicotinonitrile | 0.482 mmol, 200 mg | FC1=C(C=CC(=C1)F)C1(OC1)C(C1=CC=C(C=N1)COC1=NC=C(C#N)C=C1)(F)F | C21H13F4N3O2
reactant | 1H-tetrazole | 0.963 mmol, 67.5 mg | N1N=NN=C1 | CH2N4
reactant | K2CO3 | 0.963 mmol, 133 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4.815 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 6-((6-(2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxy-3-(1H-tetrazol-1-yl)propyl)pyridin-3-yl)methoxy)nicotinonitrile | FC1=C(C=CC(=C1)F)C(C(F)(F)C1=CC=C(C=N1)COC1=NC=C(C#N)C=C1)(CN1N=NN=C1)O | C22H15F4N7O2
